* C:\Program Files\gEDA\gEDA\bin\gnetlist.exe -g spice-sdb -o screamer-2nd-try-ltspice.net screamer-2nd-try.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
RTONE 17 25 6 <No valid value attribute found>
RDRIVE 18 4 4 <No valid value attribute found>
RLEVEL Vcc2 24 7 <No valid value attribute found>
S3.3 21 Vout 28 <No valid value attribute found>
S3.2 29 22 unconnected_pin-2 <No valid value attribute found>
S3.1 12 Vin 28 <No valid value attribute found>
S2 unconnected_pin-1 23 19 CLIP
S1 27 11 26 FAT
Q2 Vcc 13 16 2N3904 
.MODEL unknown <unknown> (2N3904)
Q1 Vcc 9 15 2N3904 
.MODEL unknown <unknown> (2N3904)
U1.2 3 6 Vcc 0 5 unknown
.MODEL unknown (448RC)
U1.1 14 23 Vcc 0 4 unknown
.MODEL unknown (448RC)
DEL1 1 0 unknown 
C13 27 23 1u  
C14 Vcc 0 470u  
C12 Vcc2 0 56u  
C10 20 21 10u  
C9 15 14 1u  
C8 5 8 1u  
C7 26 23 220n  
C6 0 3 220n  
C5 25 2 220n  
C4 24 13 100n  
C3 0 Vcc 100n  
C2 23 4 47p  
C1 12 10 22n  
D4 0 Vcc unknown 
D3 23 4 unknown 
D2 4 23 unknown 
D1 23 19 unknown 
RLed 22 1 10k  
RB 0 21 10k  
RA 20 16 100  
R19 19 18 10k  
R18 17 Vcc2 10k  
R17 0 Vcc2 10k  
R16 0 16 10k  
R15 Vcc Vcc2 10k  
R14 0 15 10k  
R13 Vcc2 14 10k  
R12 13 Vcc2 470k  
R11 9 Vcc2 470k  
R10 0 12 2.2M  
R7 Vcc2 11 2.2k  
R6 10 9 1k  
R5 8 7 1k  
R4 6 5 1k  
R3 4 3 1k  
R2 2 0 220  
R1 1 Vcc 10  
.end
